US08729102B2
D) tert-butyl [(1S)-2-{[5-(5-hydroxy-1,3-benzoxazol-2-yl)isoxazol-3-yl]oxy}-1-methylethyl]carbamate
Triethylamine (2.83 mL) was added to a solution of triphenylphosphine (2.0 g) and hexachloroethane (1.5 g) in acetonitrile (25 mL), and the mixture was stirred at room temperature for 20 min. To the reaction mixture was further added a solution of tert-butyl [(1S)-2-({5-[(2,5-dihydroxyphenyl)carbamoyl]isoxazol-3-yl}oxy)-1-methylethyl]carbamate (1.0 g) in acetonitrile (5 mL), and the mixture was stirred at room temperature overnight. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (503 mg).

reactant | Triethylamine | 2.83 mL | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 2.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hexachloroethane | 1.5 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
reactant | tert-butyl [(1S)-2-({5-[(2,5-dihydroxyphenyl)carbamoyl]isoxazol-3-yl}oxy)-1-methylethyl]carbamate | 1.0 g | OC1=C(C=C(C=C1)O)NC(=O)C1=CC(=NO1)OC[C@H](C)NC(OC(C)(C)C)=O | C18H23N3O7
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | Water | O | H2O
product | tert-butyl [(1S)-2-{[5-(5-hydroxy-1,3-benzoxazol-2-yl)isoxazol-3-yl]oxy}-1-methylethyl]carbamate | 503 mg | OC=1C=CC2=C(N=C(O2)C2=CC(=NO2)OC[C@H](C)NC(OC(C)(C)C)=O)C1 | C18H21N3O6
